2137-12-12 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Currently recieving 2 units of PRBC for low hct of 21, target to
   greater than 30.
   - After duriesis BP decreased from 120/80 to the 80/48 in the setting
   of increased fentanyl (50->75) and versed(3->4) (held lasix, gave
   PRBC), need to diuresis when blood pressure permits.  Pressure improved
   after reducing fentanyl and versed to prior levels.   Was not able to
   meet diuresis goal last night, received lasix in the AM.
   - Integrilin was stopped in the middle of the night given decrease BP,
   hct and guaiac + stool prior
 for concern of bleed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2137-12-11**] 11:12 PM
   Ceftriaxone - [**2137-12-11**] 11:13 PM
   Azithromycin - [**2137-12-12**] 12:13 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2137-12-11**] 08:15 AM
   Famotidine (Pepcid) - [**2137-12-11**] 10:21 AM
   Furosemide (Lasix) - [**2137-12-11**] 08:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-12**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.6
C (99.7
   HR: 68 (63 - 82) bpm
   BP: 96/50(61) {81/47(55) - 138/75(87)} mmHg
   RR: 13 (11 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    PAP: (54 mmHg) / (24 mmHg)
   CO/CI (Fick): (7.4 L/min) / (3.8 L/min/m2)
   Mixed Venous O2% Sat: 66 - 66
   Total In:
                                                                  4,998 mL
                                                                    967 mL
   PO:
   TF:
   IVF:
                                                                    998 mL
                                                                    407 mL
   Blood products:
                                                                    560 mL
   Total out:
                                                                  5,390 mL
                                                                    440 mL
   Urine:
                                                                  3,090 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -392 mL
                                                                    527 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 26 cmH2O
   Compliance: 22.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/37/128/26/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 256
   Physical Examination
   GENERAL:  Sedated, intubated, arousable to stimuli.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of to the level of the mandible.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Rales bilaterally anteriorly,
   expiratory wheezes bilaterally.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES:  2+ Bilateral lower extremity edema.  Arterial and venous
   sheaths in place on the left.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   240 K/uL
   7.2 g/dL
   170 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.1 mEq/L
   28 mg/dL
   110 mEq/L
   143 mEq/L
   21.3 %
   10.8 K/uL
        [image002.jpg]
                            [**2137-12-11**]  05:28 AM
                            [**2137-12-11**]  08:03 AM
                            [**2137-12-11**]  12:57 PM
                            [**2137-12-11**]  05:34 PM
                            [**2137-12-11**]  08:16 PM
                            [**2137-12-11**]  08:35 PM
                            [**2137-12-12**]  12:55 AM
                            [**2137-12-12**]  03:00 AM
   WBC
   12.1
   16.3
   8.6
   10.4
   10.8
   Hct
   28.6
   26.3
   26
   22.3
   22.8
   21.3
   Plt
   [**Telephone/Fax (3) 9646**]16
   240
   Cr
   1.1
   1.1
   TropT
   1.70
   2.89
   TCO2
   21
   25
   24
   Glucose
   117
   170
   Other labs: PT / PTT / INR:17.2/42.6/1.5, CK / CKMB /
   Troponin-T:314/24/2.89, Lactic Acid:1.7 mmol/L, Ca++:7.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   54 yo female with no significant PMHx but a strong family hx of CAD
   initially presented with chest pain and SOB, with likely subacute
   NSTEMI.
   .
   # CORONARIES:  The patient has evidence of coronary artery disease and
   likely had an NSTEMI within the last one to two days.  This may have
   been provoked by possible community acquired pneumonia or infiltrates
   on CXR and CTA may be only pulmonary edema.  Regardless, the patient is
   being medically managed for her diffuse three vessel CAD.  The patient
   had 2 BMS placed in her RCA.  The rest of her CAD could not be
   intervened upon.  Integrillin was on board for 18 hours
   - Continue ASA, Plavix, statin, Beta blocker
   - restart integrilin for additional 12 hours
   - Will need TTE in 3 months
   .
   # PUMP:  The patient has preserved systolic function on TTE today,
   however cath shows evidence of biventricular diastolic dysfunction.
   The patient is volume overloaded on exam and hemodynamics demonstrate
   overload as well.  attempted to diuresis overnight but BP did not
   tolerate.
   - Lasix boluses PRN (IV 40mg)
   - Goal negative 1-2 liters
   - If cannot tolerate lasix boluses, will start lasix drip
   - Monitor PA pressures and titrate to wedge approx [**12-26**]
   .
   # RHYTHM:  The patient is NSR.  Will start beta blockers following
   acute stage.
   - Monitor on telemetry
   .
   # anemia: patient had an acute drop in her hct over the past couple of
   days, which is largely hemodilutional.  Though, may have an unknown
   source of bleed given guaiac negative. Likely will resolve once
   diuresis off.
   - need to trend hct after getting transfusion
   -will give lasix as BP is tolerated
   .
   #  Respiratory Distress:  Most likely secondary to volume overload in
   the setting of subacute NSTEMI and diastolic dysfunction.  However, the
   patient has other radiology findings which point towards
   consolidation.  Will continue to treat the patient for both CAP and
   pulmonary edema.  Flu negative, discontinued Tamiflu and ramanitidine
   - Maintain on ventilator as needed, will wean sedation in AM and
   attempt SBT (decrease versed)
   - f/u sputum culture
   - continue ceftriaxone, azithro for CAP, d/c vanc
   - Lasix boluses as above
   .
   # Hypotension:  Resolved.  Most likely was secondary to induction for
   intubation and sedation at OSH.  Monitor pressures closely.  Monitor
   cardiac index and SVR q4h.
   .
   FEN:  monitor/replete electrolytes, NPO for now
   .
   ACCESS: R femoral, placed on [**2137-12-11**] at outside hospital, needs to be
   resited, Left sided femoral arterial and venous sheaths
   .
   PROPHYLAXIS:
   -DVT ppx with heparin gtt once sheath pulled
   -Pain management with fentanyl
   -Bowel regimen with colace and senna
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-12-11**] 05:00 AM
   20 Gauge - [**2137-12-11**] 05:00 AM
   Sheath - [**2137-12-11**] 07:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2137-12-13 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  s/p NSTEMI
   24 Hour Events:
 MULTI LUMEN - STOP [**2137-12-12**] 03:04 PM
 ARTERIAL LINE - START [**2137-12-12**] 03:59 PM
   - R. Groin femoral line d/c'd
   - Integrelin to end at 11PM [**12-12**]
   - ARDS vent settings removed, now TV 500 RR 16 40% PEEP 5
   - A-line placed
   - PM HCT and lytes stable
   - Temp to 101 at 8pm, blood urine sputum cx sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2137-12-12**] 08:26 AM
   Ceftriaxone - [**2137-12-12**] 11:56 PM
   Azithromycin - [**2137-12-13**] 12:10 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other medications:
   ASA 325mg daily
   CTX 1gm q24 (Day 2)
   Azithromycin 500mg IV q24 (Day 2)
   Metoprolol 12.5mg [**Hospital1 **]
   Atorvastatin 80mg daily
   Clopidogrel 75mg daily
   Colace 100mg [**Hospital1 **]
   Famotidine 20mg q24hrs
   SCH
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-13**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.3
C (99.2
   HR: 67 (58 - 85) bpm
   BP: 106/65(75) {89/53(61) - 150/90(104)} mmHg
   RR: 16 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    PAP: (73 mmHg) / (36 mmHg)
   Total In:
                                                                  2,099 mL
                                                                    354 mL
   PO:
   TF:
   IVF:
                                                                  1,279 mL
                                                                    354 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  3,285 mL
                                                                    200 mL
   Urine:
                                                                  3,255 mL
                                                                    200 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,186 mL
                                                                    154 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (360 - 500) mL
   Vt (Spontaneous): 488 (488 - 488) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 16 cmH2O
   Plateau: 24 cmH2O
   Compliance: 26.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/34/161/27/0
   Ve: 5.6 L/min
   PaO2 / FiO2: 403
   Physical Examination
   GENERAL:  Sedated, intubated, arousable to stimuli.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of to the level of the mandible.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Rales bilaterally anteriorly,
   expiratory wheezes bilaterally.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES:  2+ Bilateral lower extremity edema.  Arterial and venous
   sheaths in place on the left.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   228 K/uL
   8.7 g/dL
   134 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.8 mEq/L
   26 mg/dL
   110 mEq/L
   144 mEq/L
   25.4 %
   11.8 K/uL
        [image002.jpg]
                            [**2137-12-12**]  03:00 AM
                            [**2137-12-12**]  09:45 AM
                            [**2137-12-12**]  11:42 AM
                            [**2137-12-12**]  04:07 PM
                            [**2137-12-12**]  04:16 PM
                            [**2137-12-12**]  10:55 PM
                            [**2137-12-12**]  11:13 PM
                            [**2137-12-13**]  03:52 AM
                            [**2137-12-13**]  04:25 AM
                            [**2137-12-13**]  06:09 AM
   WBC
   10.8
   9.9
   13.6
   11.8
   Hct
   21.3
   27.2
   26.7
   26.7
   25.4
   Plt
   [**Telephone/Fax (3) 9663**]28
   Cr
   1.0
   1.0
   1.0
   1.0
   TropT
   2.05
   TCO2
   27
   26
   27
   28
   24
   Glucose
   133
   121
   132
   134
   Other labs: Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   CK peaked at 314 [**2137-12-11**]
   ABG: 7.44/34/161/27
   Microbiology: Flu A/B - Negative
   Urine Legionella - Negative
   [**12-11**] 8pm - ET Sputum Cx ->25 PMNs and <10 epithelial cells/100X
   field.  NO MICROORGANISMS SEEN.
   [**12-11**] 5am - Sputum Cx - Respiratory Flora
   [**12-11**] 1am - BCx - Pending
   [**12-11**] 1am - Urine Cx - neg
   Assessment and Plan
   54 yo female with no significant PMHx but a strong family hx of CAD s/p
   NSTEMI, now with known diffuse 3 vessel CAD and s/p BMS x 2 in prox and
   distal RCA.
   .
   # CORONARIES:  s/p NSTEMI.  Hemodynamically stable with diffuse 3VD.
   Patient
s CKs have peaked at 314 on [**12-11**].  s/p BMS x 2 to prox and
   distal.  RCA.  The rest of her CAD could not be intervened upon.
   Completed 18hrs of eptifibatide.
   - Continue ASA 325mg, Plavix 75mg, Atorvastatin 80mg
   - Continue Metoprolol 12.5mg [**Hospital1 **] as HR has maintain in 60s
   - Start Captopril 12.5mg TID
   - Will need TTE in 3 months
   .
   # PUMP:  Still volume overloaded on exam.  Diuresed 1.2 L yesterday.
   Echo with preserved systolic function however cath shows evidence of
   biventricular diastolic dysfunction.  BP has been stable, pt will
   benefit from afterload reduction.
   - Lasix boluses PRN (IV 40mg)
   - Goal negative 1-2 liters
   # RHYTHM:  The patient is NSR.  Will start beta blockers following
   acute stage.
   - Monitor on telemetry
   .
   # anemia:   HCT 25.4.  HCT s/p 2u PRBCs yesterday 27.2.  Pt with
   reported bloody secretion through NG suctioning.  Unclear source.
   Though, may have an unknown source of bleed given guaiac negative.
   Likely will resolve once diuresis off.
   -          Guiac stools
   -          Monitor
   .
   #  Respiratory Distress:  Most likely secondary to volume overload in
   the setting of subacute NSTEMI and diastolic dysfunction.  Pt has
   diuresed significantly since admission.  Pt
s BP increases
   significantly in when pt is agitated, concern for flash pulm edema in
   the setting of increased afterload.
   - Continue diuresis
   - f/u sputum culture
   - continue ceftriaxone, azithro for CAP.  Add Flagyl for anaerobic
   coverage.
   - Start Nitro gtt to improve BPs, then consider extubation.
   .
   FEN:  monitor/replete electrolytes, NPO for now
   .
   ACCESS: A Line, PIVs, L groin Swan in place
   .
   PROPHYLAXIS:
   -DVT ppx with SCH
   -Pain management with fentanyl
   -Bowel regimen with colace and senna
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-12-11**] 05:00 AM
   Sheath - [**2137-12-11**] 07:37 PM
   Arterial Line - [**2137-12-12**] 03:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2137-12-14 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PA CATHETER - STOP [**2137-12-13**] 03:30 PM
 SHEATH - STOP [**2137-12-13**] 03:30 PM
   venou sheath placed in cath  lab w/ swan
 FEVER - 101.6
F - [**2137-12-14**] 12:00 AM
   - attemped to wean sedation for extubation but patient became
   hypertensive with pressures uncontrolled on nitro gtt
   - switched to nipride gtt
   - tube feeding started, but held after MN for planned extubation [**12-14**]
   - febrile to 101.6@0000: cultures ordered for blood, ET secretions,
   urine
   - plan is to attempt weaning sedation again [**12-14**] while on nipride gtt
   - Femoral swan d/c'ed.
   - Antibiotics broadened to include Flagyl to cover for aspiration PNA.
   - cultures still pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2137-12-12**] 08:26 AM
   Ceftriaxone - [**2137-12-13**] 10:35 PM
   Azithromycin - [**2137-12-14**] 12:30 AM
   Metronidazole - [**2137-12-14**] 01:23 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-12-13**] 08:24 AM
   Heparin Sodium (Prophylaxis) - [**2137-12-13**] 03:40 PM
   Furosemide (Lasix) - [**2137-12-14**] 01:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-14**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.3
C (99.2
   HR: 60 (57 - 76) bpm
   BP: 119/59(74) {112/55(67) - 169/90(107)} mmHg
   RR: 20 (9 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.2 kg (admission): 91 kg
   Height: 63 Inch
    PAP: (41 mmHg) / (35 mmHg)
   Total In:
                                                                  1,336 mL
                                                                    485 mL
   PO:
   TF:
                                                                     58 mL
                                                                      5 mL
   IVF:
                                                                  1,139 mL
                                                                    479 mL
   Blood products:
   Total out:
                                                                  3,730 mL
                                                                    530 mL
   Urine:
                                                                  3,670 mL
                                                                    530 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,394 mL
                                                                    -45 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 660 (383 - 660) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 15
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.42/49/134/31/6
   Ve: 5.9 L/min
   PaO2 / FiO2: 335
   Physical Examination
   GENERAL:  Sedated, intubated, arousable to stimuli.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of to the level of the mandible.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Rales bilaterally anteriorly,
   expiratory wheezes bilaterally.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES:  2+ Bilateral lower extremity edema.  Arterial and venous
   sheaths in place on the left.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   239 K/uL
   8.6 g/dL
   106 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.1 mEq/L
   25 mg/dL
   106 mEq/L
   142 mEq/L
   26.7 %
   6.9 K/uL
        [image002.jpg]
                            [**2137-12-12**]  10:55 PM
                            [**2137-12-12**]  11:13 PM
                            [**2137-12-13**]  03:52 AM
                            [**2137-12-13**]  04:25 AM
                            [**2137-12-13**]  06:09 AM
                            [**2137-12-13**]  04:04 PM
                            [**2137-12-13**]  04:20 PM
                            [**2137-12-13**]  11:20 PM
                            [**2137-12-13**]  11:56 PM
                            [**2137-12-14**]  05:47 AM
   WBC
   13.6
   11.8
   6.9
   Hct
   26.7
   25.4
   27.0
   26.4
   26.7
   Plt
   237
   228
   239
   Cr
   1.0
   1.0
   1.0
   0.9
   TCO2
   27
   28
   24
   27
   33
   Glucose
   132
   134
   117
   106
   Other labs: PT / PTT / INR:14.3/30.5/1.2, CK / CKMB /
   Troponin-T:192/13/2.05, Lactic Acid:1.7 mmol/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   54 yo female with no significant PMHx but a strong family hx of CAD s/p
   NSTEMI, now with known diffuse 3 vessel CAD and s/p BMS x 2 in prox and
   distal RCA.
   .
   # CORONARIES:  s/p NSTEMI.  Hemodynamically stable with diffuse 3VD.
   Patient
s CKs have peaked at 314 on [**12-11**].  s/p BMS x 2 to prox and
   distal.  RCA.  The rest of her CAD could not be intervened upon.
   Completed 18hrs of eptifibatide.
   - Continue ASA 325mg, Plavix 75mg, Atorvastatin 80mg
   - Continue Metoprolol 12.5mg [**Hospital1 **], on Captopril 12.5mg TID
   - Will need TTE in 3 months
   .
   # PUMP:  Still volume overloaded on exam.  Diuresed 1.2 L yesterday.
   Echo with preserved systolic function however cath shows evidence of
   biventricular diastolic dysfunction.  BP has been stable, pt will
   benefit from afterload reduction.
   - Lasix boluses PRN (IV 80mg)
   - Goal negative 1-2 liters
   # RHYTHM:  The patient is NSR.  Will start beta blockers following
   acute stage.
   - Monitor on telemetry
   .
   #  Respiratory Distress:  Most likely secondary to volume overload in
   the setting of subacute NSTEMI and diastolic dysfunction.  Pt has
   diuresed significantly since admission.  Pt
s BP increases
   significantly in when pt is agitated, concern for flash pulm edema in
   the setting of increased afterload.
   - Continue diuresis, attempt to wean
   - f/u sputum culture
   - continue ceftriaxone, azithro, Flagyl for CAP/aspiration pna.
   - continue Nipide gtt to improve BPs, watch for cyanide poisoning
   .
   FEN:  monitor/replete electrolytes, NPO for now
   .
   # anemia:   HCT 25.4.  HCT s/p 2u PRBCs yesterday 27.2.  Pt with
   reported bloody secretion through NG suctioning.  Unclear source.
   Though, may have an unknown source of bleed given guaiac negative.
   Likely will resolve once diuresis off fluids.
   - Guiac stools
   - need to workup further as opt.
   ACCESS: A Line, PIVs, L groin Swan in place
   .
   PROPHYLAXIS:
   -DVT ppx with SCH
   -Pain management with fentanyl
   -Bowel regimen with colace and senna
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2137-12-12**] 03:59 PM
   20 Gauge - [**2137-12-13**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2137-12-15 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - unable to tolerate extubation, 220 systolic BP when not sedated.
   - was given propafol as patient is not being extubated tonight(plan to
   turn off propafol at 7am and try to extubate on rounds - consider
   extubate on [**6-18**] bipap).
   - I/O check -1.2 liter negative, gave IV 80mg Lasix, repleted her
   lytes, PM hct is stable.  At 6am, given another IV 80mg of Lasix, as
   UOP was trailing off.
   - started decreasing propafol at 6am, captopril increased to 50 TID.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2137-12-12**] 08:26 AM
   Ceftriaxone - [**2137-12-14**] 10:00 PM
   Azithromycin - [**2137-12-15**] 12:56 AM
   Metronidazole - [**2137-12-15**] 02:31 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-12-14**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2137-12-14**] 03:30 PM
   Furosemide (Lasix) - [**2137-12-15**] 06:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-15**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.2
   HR: 53 (53 - 79) bpm
   BP: 119/59(74) {0/0(0) - 0/0(0)} mmHg
   RR: 16 (12 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 86 kg (admission): 91 kg
   Height: 63 Inch
             Total In:
                                                                  1,179 mL
                                                                    657 mL
   PO:
             TF:
                                                                      5 mL
   IVF:
                                                                  1,173 mL
                                                                    657 mL
   Blood products:
   Total out:
                                                                  3,180 mL
                                                                    580 mL
   Urine:
                                                                  2,910 mL
                                                                    580 mL
   NG:
                                                                    270 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,001 mL
                                                                     77 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 462 (462 - 473) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.46/44/160/31/7
   Ve: 6.2 L/min
   PaO2 / FiO2: 400
   Physical Examination
   GENERAL:  Sedated, intubated, arousable to stimuli.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of to the level of the mandible.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Rales bilaterally anteriorly,
   expiratory wheezes bilaterally.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES:  2+ Bilateral lower extremity edema.  Arterial and venous
   sheaths in place on the left.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   269 K/uL
   9.2 g/dL
   99 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.5 mEq/L
   24 mg/dL
   103 mEq/L
   142 mEq/L
   27.1 %
   5.5 K/uL
        [image002.jpg]
                            [**2137-12-13**]  04:04 PM
                            [**2137-12-13**]  04:20 PM
                            [**2137-12-13**]  11:20 PM
                            [**2137-12-13**]  11:56 PM
                            [**2137-12-14**]  05:47 AM
                            [**2137-12-14**]  04:24 PM
                            [**2137-12-14**]  05:27 PM
                             [**2137-12-15**]  12:40 AM
                             [**2137-12-15**]  06:26 AM
                             [**2137-12-15**]  06:50 AM
   WBC
   6.9
   5.5
   Hct
   27.0
   26.4
   26.7
   26.1
   27.1
   Plt
   239
   269
   Cr
   1.0
   0.9
   0.9
   TCO2
   27
   33
   33
   32
   32
   Glucose
   117
   106
   99
   Other labs: PT / PTT / INR:14.3/30.5/1.2, CK / CKMB /
   Troponin-T:192/13/2.05, Lactic Acid:1.7 mmol/L, Ca++:8.8 mg/dL,
   Mg++:2.6 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   54 yo female with no significant PMHx but a strong family hx of CAD s/p
   NSTEMI, now with known diffuse 3 vessel CAD and s/p BMS x 2 in prox and
   distal RCA.
   .
   # CORONARIES:  s/p NSTEMI.  Hemodynamically stable with diffuse 3VD.
   Patient
s CKs have peaked at 314 on [**12-11**].  s/p BMS x 2 to prox and
   distal.  RCA.  The rest of her CAD could not be intervened upon.
   Completed 18hrs of eptifibatide.
   - Continue ASA 325mg, Plavix 75mg, Atorvastatin 80mg
   - Continue Metoprolol 12.5mg [**Hospital1 **], on Captopril 50mg TID
   - Will need TTE in 3 months
   .
   # PUMP:  Still volume overloaded on exam.  Diuresed 1.2 L yesterday.
   Echo with preserved systolic function however cath shows evidence of
   biventricular diastolic dysfunction.  BP has been stable, pt will
   benefit from afterload reduction.
   - Lasix boluses PRN (IV 80mg)
   - Goal negative 1-2 liters, follow lytes
   # RHYTHM:  The patient is NSR.  Will start beta blockers following
   acute stage.
   - Monitor on telemetry
   .
   #  Respiratory Distress:  Most likely secondary to volume overload in
   the setting of subacute NSTEMI and diastolic dysfunction.  Pt has
   diuresed significantly since admission.  Pt
s BP increases
   significantly in when pt is agitated, concern for flash pulm edema in
   the setting of increased afterload.  Was on Nipride gtt then on
   propofol for ease of decreasing sedation.
   - Continue diuresis, attempt to wean
   - f/u cultures, CXR
   - continue ceftriaxone, azithro, Flagyl for CAP/aspiration pna.
   .
   FEN:  monitor/replete electrolytes, NPO for now
   .
   # anemia:   HCT 25.4.  HCT s/p 2u PRBCs yesterday 27.2.  Pt with
   reported bloody secretion through NG suctioning.  Unclear source.
   Though, may have an unknown source of bleed given guaiac negative.
   Likely will resolve once diuresis off fluids.
   - Guiac stools or gastric secretions
   - need to workup further as opt.
   .
   ACCESS: A Line, PIVs, L groin Swan in place
   .
   PROPHYLAXIS:
   -DVT ppx with SCH
   -Pain management with fentanyl
   -Bowel regimen with colace and senna
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2137-12-12**] 03:59 PM
   20 Gauge - [**2137-12-13**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2137-12-16 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Patient extubated
   - unable to swallow oral meds with NG tube out
   - switched to Hydral 10mg IV q6h and Metoprolol IV q4h
   - CXR unchanged with the exception of improved pulmonary edema
   - has been having post-tussive emesis, with associated hypertension,
   seems to respond to Nebs and Zofran.  BP to 180's with gagging,
   110-120s when not
   - continued to be agitated overnight, unable to articulate what is
   bothering her.  Very labile.  Did not respond to zyprexa fast melt.
   Given midazolam .5-1mg for agitation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2137-12-16**] 12:00 AM
   Ceftriaxone - [**2137-12-16**] 12:00 AM
   Metronidazole - [**2137-12-16**] 01:33 AM
   Infusions:
   Nitroprusside - 2 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-12-15**] 08:26 AM
   Heparin Sodium (Prophylaxis) - [**2137-12-15**] 04:00 PM
   Furosemide (Lasix) - [**2137-12-16**] 02:03 AM
   Hydralazine - [**2137-12-16**] 03:00 AM
   Metoprolol - [**2137-12-16**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-16**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.1
C (98.7
   HR: 87 (55 - 98) bpm
   BP: 119/59(74) {0/0(0) - 0/0(0)} mmHg
   RR: 21 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86 kg (admission): 91 kg
   Height: 63 Inch
             Total In:
                                                                  1,762 mL
                                                                    897 mL
   PO:
             TF:
   IVF:
                                                                  1,762 mL
                                                                    897 mL
   Blood products:
   Total out:
                                                                  3,090 mL
                                                                    575 mL
   Urine:
                                                                  3,090 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,328 mL
                                                                    322 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.47/45/140/33/8
   Ve: 8.1 L/min
   PaO2 / FiO2: 350
   Physical Examination
   GENERAL:  Sedated, intubated, arousable to stimuli.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of to the level of the mandible.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Rales bilaterally anteriorly,
   expiratory wheezes bilaterally.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES:  2+ Bilateral lower extremity edema.  Arterial and venous
   sheaths in place on the left.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   364 K/uL
   10.4 g/dL
   148 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.3 mEq/L
   21 mg/dL
   97 mEq/L
   139 mEq/L
   31.6 %
   7.9 K/uL
        [image002.jpg]
                            [**2137-12-13**]  11:56 PM
                            [**2137-12-14**]  05:47 AM
                            [**2137-12-14**]  04:24 PM
                            [**2137-12-14**]  05:27 PM
                             [**2137-12-15**]  12:40 AM
                             [**2137-12-15**]  06:26 AM
                             [**2137-12-15**]  06:50 AM
                             [**2137-12-15**]  03:13 PM
                             [**2137-12-15**]  03:35 PM
                             [**2137-12-16**]  03:48 AM
   WBC
   6.9
   5.5
   7.9
   Hct
   26.7
   26.1
   27.1
   31.6
   Plt
   [**Telephone/Fax (3) 9708**]
   Cr
   0.9
   0.9
   0.9
   0.9
   0.8
   TCO2
   33
   33
   32
   32
   34
   Glucose
   106
   99
   93
   105
   148
   Other labs: PT / PTT / INR:14.1/26.7/1.2, CK / CKMB /
   Troponin-T:192/13/2.05, Lactic Acid:1.7 mmol/L, Ca++:9.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   54 yo female with no significant PMHx but a strong family hx of CAD s/p
   NSTEMI, now with known diffuse 3 vessel CAD and s/p BMS x 2 in prox and
   distal RCA.
   .
   # CORONARIES:  s/p NSTEMI.  Hemodynamically stable with diffuse 3VD.
   Patient
s CKs have peaked at 314 on [**12-11**].  s/p BMS x 2 to prox and
   distal.  RCA.  The rest of her CAD could not be intervened upon.
   Completed 18hrs of eptifibatide.
   - Continue ASA 325mg, Plavix 75mg, Atorvastatin 80mg
   - Continue Metoprolol 12.5mg [**Hospital1 **], on Captopril 50mg TID
   - Will need TTE in 3 months
   .
   # PUMP:  Still volume overloaded on exam.  Diuresed 1.2 L yesterday.
   Echo with preserved systolic function however cath shows evidence of
   biventricular diastolic dysfunction.  BP has been stable, pt will
   benefit from afterload reduction.
   - Lasix boluses PRN (IV 80mg)
   - Goal negative 1-2 liters, follow lytes
   # RHYTHM:  The patient is NSR.  Will start beta blockers following
   acute stage.
   - Monitor on telemetry
   .
   #  Respiratory Distress:  Most likely secondary to volume overload in
   the setting of subacute NSTEMI and diastolic dysfunction.  Pt has
   diuresed significantly since admission.  Pt
s BP increases
   significantly in when pt is agitated, concern for flash pulm edema in
   the setting of increased afterload.  Was on Nipride gtt then on
   propofol for ease of decreasing sedation.
   - Continue diuresis, attempt to wean
   - f/u cultures, CXR
   - continue ceftriaxone, azithro, Flagyl for CAP/aspiration pna.
   .
   FEN:  monitor/replete electrolytes, NPO for now
   .
   # anemia:   HCT 25.4.  HCT s/p 2u PRBCs yesterday 27.2.  Pt with
   reported bloody secretion through NG suctioning.  Unclear source.
   Though, may have an unknown source of bleed given guaiac negative.
   Likely will resolve once diuresis off fluids.
   - Guiac stools or gastric secretions
   - need to workup further as opt.
   .
   ACCESS: A Line, PIVs, L groin Swan in place
   .
   PROPHYLAXIS:
   -DVT ppx with SCH
   -Pain management with fentanyl
   -Bowel regimen with colace and senna
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2137-12-12**] 03:59 PM
   20 Gauge - [**2137-12-15**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2137-12-17 06:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2137-12-16**] 05:48 PM
   - per speech and swallow, patient can take PO as long as ground solids
   / nectar thickened liquids; giving meds crushed PO without difficulty
   - weaned off nipride gtt
   - started on labetalol, captopril PO with good response and hydralazine
   PRN, pressures well controlled overnight with SBP 100s-120s
   - neurologic status improved over the course of the day and near/at
   baseline per family
   - pt with apneic spells while sleeping overnight
   - received lasix 80 mg IV x 1 yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2137-12-16**] 10:00 PM
   Azithromycin - [**2137-12-17**] 12:32 AM
   Metronidazole - [**2137-12-17**] 02:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2137-12-16**] 08:34 AM
   Heparin Sodium (Prophylaxis) - [**2137-12-16**] 04:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-17**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 64 (61 - 88) bpm
   BP: 135/83(95) {98/46(62) - 135/83(95)} mmHg
   RR: 17 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.2 kg (admission): 91 kg
   Height: 63 Inch
             Total In:
                                                                  1,633 mL
                                                                    412 mL
   PO:
                                                                     40 mL
             TF:
   IVF:
                                                                  1,593 mL
                                                                    412 mL
   Blood products:
   Total out:
                                                                  1,080 mL
                                                                    250 mL
   Urine:
                                                                  1,080 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    553 mL
                                                                    162 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   GENERAL:  NAD, somnolent, AAOx1.5 (knows she is in hospital)
   HEENT: PERRL.
   NECK: Supple, neck fullness without clear jugular venous pulsation.
   CARDIAC: RRR s mrg.
   LUNGS: Mild bibasilar rales, otherwise CTA.
   ABDOMEN: +BS, S, NT/ND
   EXTREMITIES:  WWP, 2+ pulses bilaterally
   NEURO: CN II-XII intact.  No appreciable asymmetrical neurologic
   deficits.
   Labs / Radiology
   298 K/uL
   10.1 g/dL
   131mg/dL
   1.0 mg/dL
   33 mEq/L
   3.6 mEq/L
   25 mg/dL
   100 mEq/L
   141mEq/L
   31.2 %
   6.0 K/uL
        [image002.jpg] PT-13.6 INR-1.2 PTT-26.7    Ca-9.4 Mg-2.0 P-3.5
                            [**2137-12-13**]  11:56 PM
                            [**2137-12-14**]  05:47 AM
                            [**2137-12-14**]  04:24 PM
                            [**2137-12-14**]  05:27 PM
                             [**2137-12-15**]  12:40 AM
                             [**2137-12-15**]  06:26 AM
                             [**2137-12-15**]  06:50 AM
                             [**2137-12-15**]  03:13 PM
                             [**2137-12-15**]  03:35 PM
                             [**2137-12-16**]  03:48 AM
   WBC
   6.9
   5.5
   7.9
   Hct
   26.7
   26.1
   27.1
   31.6
   Plt
   [**Telephone/Fax (3) 9708**]
   Cr
   0.9
   0.9
   0.9
   0.9
   0.8
   TCO2
   33
   33
   32
   32
   34
   Glucose
   106
   99
   93
   105
   148
   Other labs: PT / PTT / INR:14.1/26.7/1.2, CK / CKMB /
   Troponin-T:192/13/2.05, Lactic Acid:1.7 mmol/L, Ca++:9.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   54 yo female with no significant PMHx but a strong family hx of CAD s/p
   NSTEMI, now with known diffuse 3 vessel CAD and s/p BMS x 2 in prox and
   distal RCA.
   .
   # CORONARIES:  s/p NSTEMI.  Hemodynamically stable with diffuse 3VD.
   Patient
s CKs have peaked at 314 on [**12-11**].  s/p BMS x 2 to prox and
   distal.  RCA.  The rest of her CAD could not be intervened upon.
   Completed 18hrs of eptifibatide.
   - Continue ASA 325mg, Plavix 75mg, Atorvastatin 80mg
   - Will need TTE in 3 months
   .
   # PUMP:  Exam findings indicate patient close to euvolemic.  Diuresed
   1.3 L yesterday.  Echo with preserved systolic function however cath
   shows evidence of biventricular diastolic dysfunction.  BP has been
   stable, pt will benefit from afterload reduction.
   - Goal I+O even, follow lytes
   # RHYTHM:  The patient is NSR.  Will start beta blockers following
   acute stage.
   - Monitor on telemetry
   # HTN: Currently on IV metoprolol + IV hydralazine + nipride gtt for BP
   control.
   - wean off nipride
   - change metoprolol to labetalol for added BP control
   - f/u speech & swallow recs, consider PO ACEI if patient can tolerate
   #  Respiratory Distress:  Most likely secondary to volume overload in
   the setting of subacute NSTEMI and diastolic dysfunction.  Pt has
   diuresed significantly since admission and now appears close to
   euvolemic.  Pt
s BP increases significantly in when pt is agitated,
   concern for flash pulm edema in the setting of increased afterload.
   Was on Nipride gtt then on propofol for ease of decreasing sedation.
   - f/u cultures, CXR
   - on ceftriaxone (started [**12-10**]), azithromycin (started [**12-10**]), flagyl
   (started [**12-13**])
   - continue ceftriaxone, azithro, Flagyl for CAP/aspiration pna.
   .
   FEN:  monitor/replete electrolytes, NPO for now
   .
   # anemia:   HCT 31.6 this AM, up from 27.1 yesterday.
   - likely hemoconcentration; diuresis is likely largely complete
   .
   ACCESS: A Line, PIV
   .
   PROPHYLAXIS:
   -DVT ppx with SCH
   -Pain management with fentanyl
   -Bowel regimen with colace and senna
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-12-16**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2137-12-17 11:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Patient extubated
   - unable to swallow oral meds with NG tube out
   - switched to Hydral 10mg IV q6h and Metoprolol IV q4h
   - CXR unchanged with the exception of improved pulmonary edema
   - has been having post-tussive emesis, with associated hypertension,
   seems to respond to Nebs and Zofran.  BP to 180's with gagging,
   110-120s when not
   - continued to be agitated overnight, unable to articulate what is
   bothering her.  Very labile.  Did not respond to zyprexa fast melt.
   Given midazolam .5-1mg for agitation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2137-12-16**] 12:00 AM
   Ceftriaxone - [**2137-12-16**] 12:00 AM
   Metronidazole - [**2137-12-16**] 01:33 AM
   Infusions:
   Nitroprusside - 2 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-12-15**] 08:26 AM
   Heparin Sodium (Prophylaxis) - [**2137-12-15**] 04:00 PM
   Furosemide (Lasix) - [**2137-12-16**] 02:03 AM
   Hydralazine - [**2137-12-16**] 03:00 AM
   Metoprolol - [**2137-12-16**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-16**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.1
C (98.7
   HR: 87 (55 - 98) bpm
   BP: 119/59(74) {0/0(0) - 0/0(0)} mmHg
   RR: 21 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86 kg (admission): 91 kg
   Height: 63 Inch
             Total In:
                                                                  1,762 mL
                                                                    897 mL
   PO:
             TF:
   IVF:
                                                                  1,762 mL
                                                                    897 mL
   Blood products:
   Total out:
                                                                  3,090 mL
                                                                    575 mL
   Urine:
                                                                  3,090 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,328 mL
                                                                    322 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.47/45/140/33/8
   Ve: 8.1 L/min
   PaO2 / FiO2: 350
   Physical Examination
   GENERAL:  NAD, somnolent, AAOx1.5 (knows she is in hospital)
   HEENT: PERRL.
   NECK: Supple, neck fullness without clear jugular venous pulsation.
   CARDIAC: RRR s mrg.
   LUNGS: Mild bibasilar rales, otherwise CTA.
   ABDOMEN: +BS, S, NT/ND
   EXTREMITIES:  WWP, 2+ pulses bilaterally
   NEURO: CN II-XII intact.  No appreciable asymmetrical neurologic
   deficits.
   Labs / Radiology
   364 K/uL
   10.4 g/dL
   148 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.3 mEq/L
   21 mg/dL
   97 mEq/L
   139 mEq/L
   31.6 %
   7.9 K/uL
        [image002.jpg]
                            [**2137-12-13**]  11:56 PM
                            [**2137-12-14**]  05:47 AM
                            [**2137-12-14**]  04:24 PM
                            [**2137-12-14**]  05:27 PM
                             [**2137-12-15**]  12:40 AM
                             [**2137-12-15**]  06:26 AM
                             [**2137-12-15**]  06:50 AM
                             [**2137-12-15**]  03:13 PM
                             [**2137-12-15**]  03:35 PM
                             [**2137-12-16**]  03:48 AM
   WBC
   6.9
   5.5
   7.9
   Hct
   26.7
   26.1
   27.1
   31.6
   Plt
   [**Telephone/Fax (3) 9708**]
   Cr
   0.9
   0.9
   0.9
   0.9
   0.8
   TCO2
   33
   33
   32
   32
   34
   Glucose
   106
   99
   93
   105
   148
   Other labs: PT / PTT / INR:14.1/26.7/1.2, CK / CKMB /
   Troponin-T:192/13/2.05, Lactic Acid:1.7 mmol/L, Ca++:9.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   54 yo female with no significant PMHx but a strong family hx of CAD s/p
   NSTEMI, now with known diffuse 3 vessel CAD and s/p BMS x 2 in prox and
   distal RCA.
   .
   # CORONARIES:  s/p NSTEMI.  Hemodynamically stable with diffuse 3VD.
   Patient
s CKs have peaked at 314 on [**12-11**].  s/p BMS x 2 to prox and
   distal.  RCA.  The rest of her CAD could not be intervened upon.
   Completed 18hrs of eptifibatide.
   - Continue ASA 325mg, Plavix 75mg, Atorvastatin 80mg
   - Will need TTE in 3 months
   .
   # PUMP:  Exam findings indicate patient close to euvolemic.  Diuresed
   1.3 L yesterday.  Echo with preserved systolic function however cath
   shows evidence of biventricular diastolic dysfunction.  BP has been
   stable, pt will benefit from afterload reduction.
   - Goal I+O even, follow lytes
   # RHYTHM:  The patient is NSR.  Will start beta blockers following
   acute stage.
   - Monitor on telemetry
   # HTN: Currently on IV metoprolol + IV hydralazine + nipride gtt for BP
   control.
   - wean off nipride
   - change metoprolol to labetalol for added BP control
   - f/u speech & swallow recs, consider PO ACEI if patient can tolerate
   #  Respiratory Distress:  Most likely secondary to volume overload in
   the setting of subacute NSTEMI and diastolic dysfunction.  Pt has
   diuresed significantly since admission and now appears close to
   euvolemic.  Pt
s BP increases significantly in when pt is agitated,
   concern for flash pulm edema in the setting of increased afterload.
   Was on Nipride gtt then on propofol for ease of decreasing sedation.
   - f/u cultures, CXR
   - on ceftriaxone (started [**12-10**]), azithromycin (started [**12-10**]), flagyl
   (started [**12-13**])
   - continue ceftriaxone, azithro, Flagyl for CAP/aspiration pna.
   .
   FEN:  monitor/replete electrolytes, NPO for now
   .
   # anemia:   HCT 31.6 this AM, up from 27.1 yesterday.
   - likely hemoconcentration; diuresis is likely largely complete
   .
   ACCESS: A Line, PIV
   .
   PROPHYLAXIS:
   -DVT ppx with SCH
   -Pain management with fentanyl
   -Bowel regimen with colace and senna
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2137-12-12**] 03:59 PM
   20 Gauge - [**2137-12-15**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 9736**].
   I would add the following remarks:
   History
   Patient seem with team on [**2137-12-17**].
   Doing much better without complaints of chest pain or dyspnea.
   Off Nipride, on labetalol and ace.
   Reviewed films showing significant residual LAD disease.
   Physical Examination
   Chest clear.
   Medical Decision Making
   Will adjust meds.
   Discuss importance of compliance with ASA and plavix.
   Monitor as incr activity.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 4841**], MD
   on:[**2137-12-17**] 11:25 ------